US08277777B2
1.18 g (corresponding to 3.57 mmol) of 2-[4′-(3″-fluoropropoxy)phenyl]-6-methoxymethoxyimidazo[1,2-a]pyridine was dissolved in 29 mL of isopropyl alcohol, and 0.59 mL of conc. hydrochloric acid was added thereto. Then, the mixture was refluxed for 23 hours. After the reaction solution was cooled, the solution was poured into water, and extracted twice by a salting-out extraction procedure using chloroform with addition of sodium chloride. The combined chloroform layer was dried over anhydrous magnesium sulfate. The resulting crude product was purified by silica gel column chromatography (elution solvent: chloroform/methanol=10/1), to obtain 481 mg (corresponding to 1.68 mmol) of 2-[4′-(3″-fluoropropoxy)phenyl]-6-hydroxyimidazo[1,2-a]pyridine (hereinafter referred to as Compound 2) (FIG. 3, Step 10).

reactant | 2-[4′-(3″-fluoropropoxy)phenyl]-6-methoxymethoxyimidazo[1,2-a]pyridine | 3.57 mmol, 1.18 g | FCCCOC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)OCOC)C1 | C18H19FN2O3
reactant | hydrochloric acid | 0.59 mL | Cl | ClH
reactant | water | O | H2O
solvent | isopropyl alcohol | 29 mL | C(C)(C)O | C3H8O
product | 2-[4′-(3″-fluoropropoxy)phenyl]-6-hydroxyimidazo[1,2-a]pyridine | 1.68 mmol, 481 mg | FCCCOC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)O)C1 | C16H15FN2O2
